US06093710
A mixture of 4-(N-butylcarbamoyl)methylidene-4,5,6,7-tetrahydrobenzo[b]thiophene-2-carboxylic acid (0.57 g), conc. sulfuric acid (H2SO4) (3 ml), and methanol (MeOH) (15 ml) was stirred at reflux for 1.5 hours. The reaction mixture was poured into a mixture of AcOEt and water. The organic layer was washed with saturated aqueous solution of NaHCO3, water and brine, and dried over MgSO4, and evaporated in vacuo. After evaporation, the resulting oil was purified by chromatography on silica gel (AcOEt-n-hexane as an eluent). The fractions including the object compound were collected and evaporated to give 4-(N-butylcarbamoyl)methylidene-2-methoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene (115.3 mg).

reactant | 4-(N-butylcarbamoyl)methylidene-4,5,6,7-tetrahydrobenzo[b]thiophene-2-carboxylic acid | 0.57 g | C(CCC)NC(=O)C=C1CCCC=2SC(=CC21)C(=O)O | C15H19NO3S
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 15 ml | CO | CH4O
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-(N-butylcarbamoyl)methylidene-2-methoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 115.3 mg | C(CCC)NC(=O)C=C1CCCC=2SC(=CC21)C(=O)OC | C16H21NO3S
